US08431575B2
To a stirred solution of 3-Oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (10 g) in a mixture of THF (100 mL) and MeOH (50 mL) was added NaBH4 in 10 lots over 1 h period. At the end of 1 h, TLC analysis (eluant: EtOAC) showed complete consumption of starting material. Removed solvent under reduced pressure, to the residue was added saturated NH4Cl solution (200 mL) and stirred for 1 h at rt. The aqueous layer was extracted with DCM (4×100 mL). The combined organic layer was dried over Na2SO4, filtered and concentrated the filtrate. The product was purified by silica gel column chromatography (Eluant 8:2 EtOAc/Hexanes) to give 3-hydroxy-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (6.6 g, cis/trans mixture). The cis/trans mixture (5 g) was separated on ISCO (Combiflash instrument) on a silica gel column (300 g) by eluting with ethyl acetate in hexanes to get (±)-trans-3-hydroxy-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (1.5 g, HRf) and (±)-cis-3-hydroxy-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (3.0 g, LRf).

reactant | 3-Oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 10 g | C(C)OC(=O)C1C(CN(CC1)C(=O)OC(C)(C)C)=O | C13H21NO5
reactant | NaBH4 | [BH4-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | MeOH | 50 mL | CO | CH4O
product | 3-hydroxy-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 6.6 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)CO)O | C11H21NO4
